### PR TITLE
[Merged by Bors] - feat(KrullDimension): height_strictMono, mapping theorems

### PR DESCRIPTION
**Pull request by nomeata**
Next parts from PR #15524: strict monotonicity of `height` for finite
height, and mapping height over a strictly monotone function or order-isomorphism

From the Carleson project

---

- [x] depends on: #15344
- [x] depends on: #16500

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
 @[gcongr] protected lemma _root_.GCongr.height_le_height (a b : α) (hab : a ≤ b) :
     height a ≤ height b := height_mono hab
 
+private lemma height_add_const (a : α) (n : ℕ∞) :
```
Comment (nomeata) [inline Mathlib/Order/KrullDimension.lean:167]: Review comment: This helper lemma is used more often in https://github.com/leanprover-community/mathlib4/pull/15524, hence extracted.

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
...
+    height a + n = ⨆ (p : LTSeries α ) (_ : p.last = a), p.length + n := by
+  have hne : Nonempty { p : LTSeries α // p.last = a } := ⟨RelSeries.singleton _ a, rfl⟩
+  rw [height_eq_iSup_last_eq, iSup_subtype', iSup_subtype']
+  rw [Monotone.map_ciSup_of_continuousAt (f := (· + n))
+    (continuousAt_id.add continuousAt_const) (monotone_id.add monotone_const)]
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:172]: Horror! Don't use topology for such simple statement :-)

See how [`ENNReal.iSup_add`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.iSup_add) is proved and try doing the same for `ENat`

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
...
+
+-- only true for finite height
+lemma height_strictMono (x y : α) (hxy : x < y) (hfin : height y < ⊤) :
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:175]:
```suggestion
@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height y < ⊤) :
```

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
...
+    height x < height y := by
+  have : height x ≠ ⊤ := ne_top_of_lt (lt_of_le_of_lt (height_mono (le_of_lt hxy)) hfin)
+  rw [← ENat.add_one_le_iff this]
+  rw [height_add_const]
+  apply iSup₂_le
+  intro p hlast
+  apply le_iSup₂_of_le (p.snoc y (by simp [*])) (by simp) (by simp)
+
+lemma height_le_height_of_strictmono (f : α → β) (hf : StrictMono f) (x : α) :
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:184]:
```suggestion
lemma height_le_height_apply_of_strictMono {f : α → β} (hf : StrictMono f) (x : α) :
```

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
...
+    height x ≤ height (f x) := by
+  simp only [height_eq_iSup_last_eq]
+  apply iSup₂_le
+  intro p hlast
+  apply le_iSup₂_of_le (p.map f hf) (by simp [hlast]) (by simp)
+
+@[simp]
+lemma height_eq_of_orderIso (f : α ≃o β) (x : α) : height (f x) = height x := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:192]:
```suggestion
lemma height_orderIso (f : α ≃o β) (x : α) : height (f x) = height x := by
```
or something like that

File: Mathlib/Order/KrullDimension.lean [hunk 6]
```diff
@@ -162,6 +164,36 @@ lemma height_mono : Monotone (α := α) height :=
...
+  apply iSup₂_le
+  intro p hlast
+  apply le_iSup₂_of_le (p.snoc y (by simp [*])) (by simp) (by simp)
+
+lemma height_le_height_of_strictmono (f : α → β) (hf : StrictMono f) (x : α) :
+    height x ≤ height (f x) := by
+  simp only [height_eq_iSup_last_eq]
+  apply iSup₂_le
+  intro p hlast
+  apply le_iSup₂_of_le (p.map f hf) (by simp [hlast]) (by simp)
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:189]: I thought we said no `iSup` API anymore 😉

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:189]: Well, after `height_add_const` there is an `iSup` again. So at least the first one is hard to avoid. The other one I can do differently.

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:172]: That looks very similar to me:
```
theorem iSup_add {ι : Sort*} {s : ι → ℝ≥0∞} [Nonempty ι] : iSup s + a = ⨆ b, s b + a :=
  Monotone.map_ciSup_of_continuousAt (continuousAt_id.add continuousAt_const) <|
    monotone_id.add monotone_const
```

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:172]: I have a non-topological ugly proof in https://github.com/leanprover-community/mathlib4/pull/15344/files, but [was advised](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Topology.20of.20.60ENat.60/near/455447883) to use https://github.com/leanprover-community/mathlib4/pull/15380. Was that ill-advised?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:172]: Oh, that looks quite bad. Certainly, the elementary theory of heights should not require topology. I will try to open a PR downgrading the imports to `ENNReal.iSup_add`.

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:172]: Thanks for the heads up, and no rush!

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:172]: The PRs are #16735 and #16742. Do you want me to prove the `ENat` versions as well or are you happy to take it from there?

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:172]: I can give it a shot when I get to it, but not sure when that will be, and will probably require some hand holding. So if you have pages it all in and have a clear picture where to go, maybe better go ahead?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:172]: Okay, will do it myself

File: Mathlib/Order/KrullDimension.lean [hunk 7]
```diff
@@ -162,6 +162,37 @@ lemma height_mono : Monotone (α := α) height :=
 @[gcongr] protected lemma _root_.GCongr.height_le_height (a b : α) (hab : a ≤ b) :
     height a ≤ height b := height_mono hab
 
+private lemma height_add_const (a : α) (n : ℕ∞) :
+    height a + n = ⨆ (p : LTSeries α) (_ : p.last = a), p.length + n := by
+  have hne : Nonempty { p : LTSeries α // p.last = a } := ⟨RelSeries.singleton _ a, rfl⟩
+  rw [height_eq_iSup_last_eq, iSup_subtype', iSup_subtype', ENat.iSup_add]
+
+/- For elements of finite height, `height` is strictly monotone. -/
+@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height y < ⊤) :
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:171]:
```suggestion
@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height x < ⊤) :
```
because if `y` has infinite height then its height is greater than `height x`

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/KrullDimension.lean (hunk 7 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:171]: I think I thought multiple times which one is the more general statement, but seems I got it wrong nevertheless :-). Thanks!

File: Mathlib/Order/KrullDimension.lean [hunk 8]
```diff
@@ -162,6 +162,37 @@ lemma height_mono : Monotone (α := α) height :=
...
+private lemma height_add_const (a : α) (n : ℕ∞) :
+    height a + n = ⨆ (p : LTSeries α) (_ : p.last = a), p.length + n := by
+  have hne : Nonempty { p : LTSeries α // p.last = a } := ⟨RelSeries.singleton _ a, rfl⟩
+  rw [height_eq_iSup_last_eq, iSup_subtype', iSup_subtype', ENat.iSup_add]
+
+/- For elements of finite height, `height` is strictly monotone. -/
+@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height x < ⊤) :
+    height x < height y := by
+  suffices height x + 1 ≤ height y by
+    have hnetop : height x ≠ ⊤ := ne_top_of_lt (lt_of_le_of_lt (height_mono (le_of_lt hxy)) hfin)
```
Comment (nomeata) [inline Mathlib/Order/KrullDimension.lean:174]:
```suggestion
    have hnetop : height x ≠ ⊤ := ne_top_of_lt hfin
```

File: Mathlib/Order/KrullDimension.lean [hunk 9]
```diff
@@ -162,6 +162,37 @@ lemma height_mono : Monotone (α := α) height :=
...
+  rw [height_eq_iSup_last_eq, iSup_subtype', iSup_subtype', ENat.iSup_add]
+
+/- For elements of finite height, `height` is strictly monotone. -/
+@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height x < ⊤) :
+    height x < height y := by
+  suffices height x + 1 ≤ height y by
+    have hnetop : height x ≠ ⊤ := ne_top_of_lt hfin
+    rw [← ENat.add_one_le_iff hnetop]
+    assumption
+  rw [height_add_const]
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:177]:
```suggestion
  rw [← ENat.add_one_le_iff hfin.ne, height_add_const]
```

File: Mathlib/Order/KrullDimension.lean [hunk 10]
```diff
@@ -162,6 +162,37 @@ lemma height_mono : Monotone (α := α) height :=
...
+  apply iSup₂_le
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:178]:
```suggestion
  rw [← ENat.add_one_le_iff hfin.ne, height_add_const, iSup₂_le_iff]
```

File: Mathlib/Order/KrullDimension.lean [hunk 11]
```diff
@@ -162,6 +162,32 @@ lemma height_mono : Monotone (α := α) height :=
...
+
+/- For elements of finite height, `height` is strictly monotone. -/
+@[gcongr] lemma height_strictMono {x y : α} (hxy : x < y) (hfin : height x < ⊤) :
+    height x < height y := by
+  rw [← ENat.add_one_le_iff hfin.ne, height_add_const, iSup₂_le_iff]
+  intro p hlast
+  have := length_le_height_last (p := p.snoc y (by simp [*]))
+  simpa using this
+
+lemma height_le_height_apply_of_strictmono (f : α → β) (hf : StrictMono f) (x : α) :
```
Comment (jcommelin) [inline Mathlib/Order/KrullDimension.lean:178]:
```suggestion
lemma height_le_height_apply_of_strictMono (f : α → β) (hf : StrictMono f) (x : α) :
```

**Comment by jcommelin** [comment]
bors d+

**Comment by nomeata** [comment]
bors d+
